US03946027
4-(2'-Nitrophenyl)-1,4-dihydropyridine-2,3,5,6-tetracarboxylic acid tetraethyl ester ##SPC15##
A solution of 7.5 g of o-nitrobenzaldehyde, 9.5 g of oxalacetic acid diethyl ester and 9.4 g of iminosuccinic acid diethyl ester in 30 ccs of alcohol is heated under reflux overnight and subsequently cooled. After filtration, light yellow crystals of melting point 109° (ethanol) are obtained. Yield 58%.

reactant | o-nitrobenzaldehyde | 7.5 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | oxalacetic acid diethyl ester | 9.5 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | iminosuccinic acid diethyl ester | 9.4 g | C(C)OC(C(CC(=O)OCC)=N)=O | C8H13NO4
product | 4-(2'-Nitrophenyl)-1,4-dihydropyridine-2,3,5,6-tetracarboxylic acid tetraethyl ester | Yield 58% | C(C)OC(=O)C=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C(=O)OCC | C23H26N2O10
